US04232039
(b) 4-Hydroxy-4-(4-cyclohexyl-2-methoxyphenyl)-butyric acid
1.06 g of NaBH4 in 90 ml of dioxane-water (1:1) are added dropwise with stirring at room temperature to 1.16 g of 4-oxo-4-(4-cyclohexyl-2-methoxyphenyl)-butyric acid in 200 ml of dioxane-water (1:1). This is left to stand for 5 hours at 22° and then acidified with 2N H2SO4 to pH=2. Most of the dioxane is removed on rotary vapouriser and the aqueous solution is extracted three times with ethyl acetate. The organic phases are washed once with water, dried over Na2SO4 and concentrated. The residue is recrystallised twice from ether-petroleum-ether. M.p. 105°-106°.

reactant | NaBH4 | 1.06 g | [BH4-].[Na+]
reactant | 4-oxo-4-(4-cyclohexyl-2-methoxyphenyl)-butyric acid | O=C(CCC(=O)O)C1=C(C=C(C=C1)C1CCCCC1)OC | C17H22O4
reactant | H2SO4 | 2N | OS(=O)(=O)O | H2O4S
solvent | dioxane water | 90 ml | O1CCOCC1.O
solvent | dioxane water | 200 ml | O1CCOCC1.O
product | 4-Hydroxy-4-(4-cyclohexyl-2-methoxyphenyl)-butyric acid | OC(CCC(=O)O)C1=C(C=C(C=C1)C1CCCCC1)OC | C17H24O4
